US04292243
4-Oximino-3'-phenylspiro[cyclohexane-1,1'(3'H)-isobenzofuran]
A warm solution of 8.35 g of 3'-phenylspiro[cyclohexane-1,1'(3'H)-isobenzofuran]-4-one in 300 ml of ethanol is mixed with a solution of 8.16 g of sodium acetate trihydrate, 4.17 g of hydroxylamine hydrochloride, and 60 ml of water. The solution is refluxed for 120 minutes. The solvent is removed in vacuo and the residue stirred with 300 ml of water. The precipitate is suction filtered, washed with water and dried to give 92.3% of product, mp 172°-175° C.

reactant | 3'-phenylspiro[cyclohexane-1,1'(3'H)-isobenzofuran]-4-one | 8.35 g | C1(=CC=CC=C1)C1OC2(C3=CC=CC=C13)CCC(CC2)=O | C19H18O2
reactant | sodium acetate trihydrate | 8.16 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 4.17 g | Cl.NO
reactant | water | 60 ml | O | H2O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 4-Oximino-3'-phenylspiro[cyclohexane-1,1'(3'H)-isobenzofuran] | 92.3% | N(O)=C1CCC2(OC(C3=CC=CC=C23)C2=CC=CC=C2)CC1 | C19H19NO2
